### PR TITLE
Add Erdős Problem 308 (integers as sums of bounded unit fractions), link the formal proof

### LINKED ISSUE #6324: Erdős Problem 308
### What is the Erdős problem?

https://www.erdosproblems.com/308

Let $N\geq 1$. What is the smallest integer not representable as the sum of distinct unit fractions with denominators from $\{1,\ldots,N\}$? Is it true that the set of integers representable as such has the shape $\{1,\ldots,m\}$ for some $m$?

Status: proved (essentially solved by Croot [Cr99]: for large $N$ the representable set is $\{1,\ldots,m_N-1\}$ or $\{1,\ldots,m_N\}$ with $m_N=\lfloor\sum_{n\le N}1/n\rfloor$). A formal proof exists in plby/lean-proofs (`Erdos308.erdos_308`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6324.

### What changed
Adds `FormalConjectures/ErdosProblems/308.lean` with `IsRepresentable N k`, the set `representable N` of representable positive integers, `f N` (the least positive non-representable integer) and `m N = ⌊H_N⌋`:
- `erdos_308.parts.i`: for all large `N`, `f N = m N` or `f N = m N + 1`.
- `erdos_308.parts.ii` (`answer(True)`): for all large `N`, `representable N = Icc 1 m` for some `m`.
- `variants.shape`: `representable N = Icc 1 (m N - 1)` or `Icc 1 (m N)` for all large `N`.

These three are linked to plby/lean-proofs `Erdos308.erdos_308` (Codex and GPT-5.6 Sol; 28 Mathlib-only files on top of the unit-fractions development).
- Sorry'd: Croot's two-sided bounds [Cr99]; open variant asking whether the initial-segment shape holds for every `N ≥ 1`.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos308.erdos_308` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms (definitions coincide; `⌊harmonic N⌋₊` over `ℚ` vs plby's floor over `ℝ` via `Rat.floor_cast`):

<details>
<summary>Bridge</summary>

```lean
open Filter Real

namespace Bridge308

lemma isRepresentable_iff (N k : ℕ) :
    Erdos308.IsRepresentable N k ↔ Erdos308Plby.IsRepresentable N k := Iff.rfl

lemma representable_eq (N : ℕ) :
    Erdos308.representable N = Erdos308Plby.representedPositiveIntegers N := rfl

lemma f_eq (N : ℕ) : Erdos308.f N = Erdos308Plby.firstMissing N := rfl

lemma m_eq (N : ℕ) : Erdos308.m N = Erdos308Plby.harmonicFloor N := by
  unfold Erdos308.m Erdos308Plby.harmonicFloor Erdos308Plby.harmonicReal
  rw [← Int.floor_toNat, ← Int.floor_toNat, Rat.floor_cast]

theorem parts_i : type_of% Erdos308.erdos_308.parts.i := by
  filter_upwards [Erdos308Plby.erdos_308] with N hN
  rw [f_eq, m_eq]
  rcases hN with ⟨-, h⟩ | ⟨-, h⟩
  · exact Or.inl h
  · exact Or.inr h

theorem shape : type_of% Erdos308.erdos_308.variants.shape := by
  filter_upwards [Erdos308Plby.erdos_308] with N hN
  rw [representable_eq, m_eq]
  rcases hN with ⟨h, -⟩ | ⟨h, -⟩
  · exact Or.inl h
  · exact Or.inr h

theorem parts_ii : type_of% Erdos308.erdos_308.parts.ii := by
  show True ↔ _
  simp only [true_iff]
  filter_upwards [shape] with N hN
  rcases hN with h | h
  · exact ⟨_, h⟩
  · exact ⟨_, h⟩

#print axioms Erdos308Plby.erdos_308
#print axioms parts_i
#print axioms parts_ii
#print axioms shape

end Bridge308
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«308»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/308.lean [hunk 1]
```diff
@@ -0,0 +1,114 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/308.lean:2]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
Thanks!
